US08835420B2
(S)-5-Chloro-N4-(1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)pyrimidine-2,4,6-triamine
To a 10 mL vial were added (S)-1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (100 mg, 0.384 mmol), 5,6-dichloropyrimidine-2,4-diamine (68.8 mg, 0.384 mmol) and Et3N (0.11 mL, 0.77 mmol) in DMF (3 mL). The resulting yellow solution was heated to 90° C. and stirred overnight. The reaction mixture was purified by preparative HPLC eluting with 20-40% ACN in water (with 0.05% ammonium formate). The fractions containing the desired product were combined and lyophilized to give the title compound as a white solid (22 mg, 14%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.31-1.41 (m, 3 H), 2.70-2.82 (m, 2 H), 3.00-3.15 (m, 3 H), 3.69-3.93 (m, 10 H), 5.55-5.67 (m, 2H), 5.79-5.89 (m, 1 H), 5.89-5.96 (m, 2 H), 6.11-6.22 (m, 1 H), 6.47-6.57 (m, 1 H), 7.49-7.59 (m, 1 H), 7.75-7.84 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C18H23ClN8O, 403. found 403.

reactant | (S)-1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.384 mmol, 100 mg | CN1C=CC2=NC(=C(C=C21)N2CCOCC2)[C@H](C)N | C14H20N4O
reactant | 5,6-dichloropyrimidine-2,4-diamine | 0.384 mmol, 68.8 mg | ClC=1C(=NC(=NC1Cl)N)N | C4H4Cl2N4
reactant | Et3N | 0.77 mmol, 0.11 mL | CCN(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)-5-Chloro-N4-(1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)pyrimidine-2,4,6-triamine | 22 mg, 14% | ClC=1C(=NC(=NC1N)N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2 | C18H23ClN8O
